US06903118B1
a) 1-(4-chlorobutyryl)-4-diphenylmethyl-piperazine
25 g (99 mmol) benzhydrylpiperazine and 15.2 ml (109 mmol) TEA are present in 200 ml absolute THF and cooled to ca. 0° C. under moisture exclusion. 14 g (99 mmol) 4-chlorobutyric chloride are dissolved in 40 ml absolute THF and added dropwise. The mixture is stirred an additional three hours at RT and subsequently filtered. The filtrate is concentrated under vacuum, the residue is taken up in acetic acid ethyl ester and washed with saturated NaCl solution. The organic phase is dried over sodium sulfate and concentrated under vacuum until dry. The resin is further processed without further purification: yield 35.1 g (99%).

reactant | benzhydrylpiperazine | 99 mmol, 25 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | 4-chlorobutyric chloride | 99 mmol, 14 g | ClCCCC(=O)Cl | C4H6Cl2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 1-(4-chlorobutyryl)-4-diphenylmethyl-piperazine | ClCCCC(=O)N1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C21H25ClN2O
